US04029787
4-(4-Methylpiperazine-1-yl)-3-tetrahydrofurfurylsulfamoylbenzoic acid
The reaction was carried out in a manner analogous to that of Example 31, using 32 g of 4-chloro-3-tetrahydrofurfurylsulfamoyl-benzoic acid and 30 g of N-methylpiperazine. The crude product was purified by recrystallization from ethanol.

reactant | 4-chloro-3-tetrahydrofurfurylsulfamoyl-benzoic acid | 32 g | ClC1=C(C=C(C(=O)O)C=C1)S(NCC1CCCO1)(=O)=O | C12H14ClNO5S
reactant | N-methylpiperazine | 30 g | CN1CCNCC1 | C5H12N2
product | 4-(4-Methylpiperazine-1-yl)-3-tetrahydrofurfurylsulfamoylbenzoic acid | CN1CCN(CC1)C1=C(C=C(C(=O)O)C=C1)S(NCC1CCCO1)(=O)=O | C17H25N3O5S
